US06743785B2
(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetamide
To a solution of (5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide (0.30 g, 1.31 mmol) in dioxane (6 mL) and water (2 mL) was added 10% palladium on carbon (0.060 g), followed by the careful addition of NaH2PO2.H2O (0.60 g, 5.67 mmol) and the reaction was brought to reflux under nitrogen. After 3 hours an additional 0.60 g of NaH2PO2.H2O was added and the reaction was heated at reflux for another 6 hrs. The mixture was cooled, filtered through a pad of Celite, and washed well with ethyl acetate (100 mL). The solution was concentrated under reduced pressure and the residue triturated with water (20 mL). The resulting suspension was filtered and the recovered solid dried under reduced pressure to provide 0.27 g (96%) of the title compound as a white solid.

reactant | (5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide | 1.31 mmol, 0.30 g | C1(=CN2CCCC3=CC=CC1=C23)CC(=O)N | C13H14N2O
reactant | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | palladium on carbon | 0.060 g | [Pd] | Pd
product | (5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetamide | 0.27 g, 96% | C1(=CN2CCCC3=CC=CC1=C23)C(C(=O)N)=O | C13H12N2O2
